US05849922
A. Methyl 4-[Hydroxy(3-pyridyl)methyl]benzoate
To a cooled solution (-78° C.) of 10.6 mL (0.11 mol) of 3-bromopyridine in 1.2 L of anhydrous Et2O was added dropwise 93.8 mL (0.15 mol) of 1.6M n-BuLi in hexanes over 1 h period. The turbid yellow solution was stirred at -78° C. for 25 min, and then 24.62 g (0.15 mol) of methyl 4-formylbenzoate in 300 mL of Et2O was cannulated to the lithiopyridine solution. The mixture was continually stirred at -78° C. for 2 h and at room temperature for 2 more h. The reaction was quenched with 400 mL of brine and 200 mL of H2O. The organic layer was separated and the aqueous layer was extracted with 3×1.0 L of CH2Cl2. To the combined organic layer was added 200 mL of MeOH to dissolve the product which precipitated out. This was then dried over MgSO4 and concentrated. The crude product was crystallized from MeOH to afford 17.24 g (64%) of a white solid: mp 151° C.; 1H NMR (CDCl3) δ8.62 (br s, 1H), 8.51 (br s, 1H), 8.02 (d, J=8.3 Hz, 2H), 7.70 (d, J=7.9 Hz, 1H), 7.45 (d, J=8.3 Hz, 2H), 7.30 (br s, 1H), 5.93 (s, 1H), 3.90 (s, 3H), 2.92 (br s, 1H); FDMS 244 (M+1). Anal. (C14H13NO3.0.16C2H4O) C, H, N.

reactant | 3-bromopyridine | 0.11 mol, 10.6 mL | BrC=1C=NC=CC1 | C5H4BrN
reactant | n-BuLi | 0.15 mol, 1.6M, 93.8 mL | [Li]CCCC
reactant | methyl 4-formylbenzoate | 0.15 mol, 24.62 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | lithiopyridine | [Li]C1=NC=CC=C1
solvent | Et2O | 1.2 L | CCOCC | C4H10O
solvent | Et2O | 300 mL | CCOCC | C4H10O
product | Methyl 4-[Hydroxy(3-pyridyl)methyl]benzoate | 17.24 g, 64% | OC(C1=CC=C(C(=O)OC)C=C1)C=1C=NC=CC1 | C14H13NO3
